US09376459B2
(19) [Example 36: copolymerization of propylene/methyl acrylate]
Methylene chloride slurries (0.02 mol/L) of bis(benzylideneacetone)palladium and Phosphorus-Sulfonic Acid Ligand (I) were separately prepared and after treatment by an ultrasonic vibrator, mixed in a molar ratio of 1:1, and the mixture was stirred at room temperature for 15 minutes. Subsequently, the 10 mL stainless autoclave reactor was purged with purified nitrogen, and purified toluene and methyl acrylate (6 mmol) were introduced. After raising the temperature to 80° C. and pressurizing the system with propylene to 0.5 MPa, 8 μmol of the catalyst slurry prepared above was added, and polymerization was started. Here, the total liquid amount was adjusted to become 5 mL during the polymerization. The temperature was kept constant during the reaction, and propylene was continuously supplied so that the partial pressure of propylene could be kept at 0.5 MPa. After 60 minutes, the unreacted propylene was purged, and the autoclave was cooled to room temperature. The entire amount of the solvent was removed by evaporation, and the polymer was dried under reduced pressure at 40° C. for 6 hours and recovered. The catalytic activity was 3.90E+03 g/mol/h. The molecular weight Mw of the obtained polymer was 194,000 in terms of polyethylene, and Mw/Mn was 2.0.

reactant | Methylene chloride | C(Cl)Cl | CH2Cl2
reactant | methyl acrylate | 6 mmol | C(C=C)(=O)OC | C4H6O2
reactant | propylene | C=CC | C3H6
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | propylene methyl acrylate | C=CC.C(C=C)(=O)OC | InChI=1S/C4H6O2.C3H6/c1-3-4(5)6-2;1-3-2/h3H,1H2,2H3;3H,1H2,2H3
